US07745641B2
In a similar manner to Step 1 of Example 152, 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (81.7 mg, 0.109 mmol) was dissolved in dimethoxyethane (4.1 mL), and the solution was treated with cyclopropylboronic acid (28.0 mg, 0.327 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (7.1 mg, 0.0087 mmol), potassium carbonate (75.0 mg, 0.545 mmol) and water (0.058 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=12/1) to obtain 4-cyclopropyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (47.7 mg, yield 68%).

reactant | 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 0.109 mmol, 81.7 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O)(F)F | C35H47F3N4O7SSi
reactant | cyclopropylboronic acid | 0.327 mmol, 28.0 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 0.545 mmol, 75.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.058 mL | O | H2O
solvent | dimethoxyethane | 4.1 mL | C(OC)COC | C4H10O2
product | 4-cyclopropyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 47.7 mg, yield 68% | C1(CC1)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C37H52N4O4Si
